US04276426
The process described in Example 2 is repeated, except that 1.3 liters of methyldichlorosilane, 1.7 liters of 1-methylstyrene and 5 ml of the catalytic solution are substituted for the trichlorosilane, allyl chloride and catalytic solution and the process is carried out at a temperature of 140° C. instead of 120° C. About 97.9 mol percent of the methyldichlorosilane used is converted and 12.8 moles per hour of 2-phenyl-2-methylethyl (methyl) dichlorosilane are obtained having a purity of 97.2 percent by weight as determined by gas chromatography.

reactant | methyldichlorosilane | 1.3 liters | C[SiH](Cl)Cl | CH4Cl2Si
reactant | trichlorosilane | Cl[SiH](Cl)Cl | Cl3HSi
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | 1-methylstyrene | 1.7 liters | CC1(C=C)CC=CC=C1 | C9H12
product | 2-phenyl-2-methylethyl (methyl) dichlorosilane | C1(=CC=CC=C1)C(C[Si](Cl)(Cl)C)C | C10H14Cl2Si
